US04447441
5-[3-(2-[2,2,2-Trifluoroethyl]guanidino)pyrazol-1-yl]valeronitrile (13 g.) was added over 10 minutes to concentrated sulphuric acid (65 ml.) with stirring. The resulting solution was kept at 20° for 18 hours then diluted with ice (300 ml.) and basified to pH 9 with 10.8 N sodium hydroxide. The mixture was extracted with EtOAc (3×200 ml.) and the extract was dried (MgSO4) and evaporated in vacuo to an oil which crystallised. The crude material was recrystallised from EtOAc to give 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)pyrazol-1-yl]valeramide, m.p. 130°. The maleic acid salt was prepared in acetone, m.p. 183°-184°.

reactant | 5-[3-(2-[2,2,2-Trifluoroethyl]guanidino)pyrazol-1-yl]valeronitrile | 13 g | FC(CN=C(NC1=NN(C=C1)CCCCC#N)N)(F)F | C11H15F3N6
reactant | sulphuric acid | 65 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 10.8 N | [OH-].[Na+]
product | 5-[3-(2-[2,2,2-trifluoroethyl]guanidino)pyrazol-1-yl]valeramide | FC(CN=C(NC1=NN(C=C1)CCCCC(=O)N)N)(F)F | C11H17F3N6O
